US04743703
Preparation of Methyl 2-nitro-5-(2-chloro-4-pentafluoroethylphenoxy)benzoate
390 mg (2.76 mmol) of methyl iodide and 320 mg (2.3 mmol) of powdered potassium carbonate were added to 940 mg (2.3 mmol) of 2-nitro-5-(2-chloro-4-pentafluoroethylphenoxy)benzoic acid in 30 ml of dimethylforamide (freshly eluted through neutral alumina). After 1 hour, the mixture was poured into 300 ml of water, extracted with ether, the ether layer was washed with saturated sodium chloride solution, then dried and evaporated to 820 mg of light yellow oil (84%) diphenyl ether methyl benzoate having the following elemental analysis, calculated (found): C: 45.14 (47.54); H: 2.13 (2.69); Cl: 8.33 (6.19); F: 22.31 (21.26); N: 3.29 (2.72); O: 18.79.

reactant | methyl iodide | 2.76 mmol, 390 mg | CI | CH3I
reactant | potassium carbonate | 2.3 mmol, 320 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2-nitro-5-(2-chloro-4-pentafluoroethylphenoxy)benzoic acid | 2.3 mmol, 940 mg | [N+](=O)([O-])C1=C(C(=O)O)C=C(C=C1)OC1=C(C=C(C=C1)C(C(F)(F)F)(F)F)Cl | C15H7ClF5NO5
solvent | dimethylforamide | 30 ml | CN(C=O)C | C3H7NO
product | Methyl 2-nitro-5-(2-chloro-4-pentafluoroethylphenoxy)benzoate | [N+](=O)([O-])C1=C(C(=O)OC)C=C(C=C1)OC1=C(C=C(C=C1)C(C(F)(F)F)(F)F)Cl | C16H9ClF5NO5
